US07304162B2
1.10 Preparation of 3,5-Dimethyl-benzaldehyde Oxime
A 2 L round bottom flask was set up with a mechanical stirrer, thermometer, N2 inlet and reflux condensor. A solution of 3,5-dimethyl-benzaldehyde (70 g. 522 mmol) in 300 mL of methanol was added, followed by the addition of sodium acetate (44 g, 536 mmol). Hydroxylamine-HCl (37 g, 532 mmol) was added portion-wise over 5 minutes, during which time the maximum temperature reached without cooling was 27° C. The mixture was stirred for an additional 2 hours at room temperature. TLC (10% ethyl acetate in hexane) indicated the absence of the starting aldehyde and the appearance of oxime. Most of the methanol was removed on a rotary evaporator, resulting in the formation of a precipitate. Ether and water were added to the concentrated suspension, and then the ether layer was collected, dried over MgSO4, and removed on a rotary evaporator. The white crystalline material was air-dried, resulting in 77 g (100%) of 3,5-dimethyl-benzaldehyde oxime. 1H-NMR (300 MHz, CDCl3)δ(ppm): 8.09 (s, 1H), 7.22 (s, 2H), 7.05 (s, 1H), 2.33 (s, 6H).

reactant | 3,5-dimethyl-benzaldehyde | 522 mmol, 70 g | CC=1C=C(C=O)C=C(C1)C | C9H10O
reactant | sodium acetate | 536 mmol, 44 g | C(C)(=O)[O-].[Na+]
reactant | Hydroxylamine-HCl | 532 mmol, 37 g | Cl.NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 300 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | Ether | CCOCC | C4H10O
product | 3,5-Dimethyl-benzaldehyde Oxime | CC=1C=C(C=NO)C=C(C1)C | C9H11NO
